US05804686
To a stirred mixture of 4-oxo-4,5,6,7-tetrahydrobenzofuran-3-carboxylic acid (640 g, 3.55 mol), potassium carbonate (1.7 kg, 10.65 mol) and cesium carbonate (100 g, 0.32 mol) in N,N-dimethylformamide (9.0 L) is added iodoethane (1250 g, 8.01 mol). The mixture is heated at 60° C. for 2 h. After cooling to ambient temperature, the mixture is filtered, the solid is rinsed with ethyl acetate, and the filtrate concentrated in vacuo. Water (2 L) is added then extracted with ethyl acetate (2×2 L); the combined organic extracts are washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo to give ethyl 4-oxo-4,5,6,7-tetrahydrobenzofuran-3-carboxylic acid (642 g). A mixture of this ester (640 g, 3.07 mol) and ammonium acetate (426 g, 5.53 mol) in N,N-dimethylformamide (320 mL) is heated to 100° C. for 2 h. The reaction mixture is concentrated in vacuo, ice water (2.5 L) is added, and extracted with dichloromethane (2×3 L); the combined organic extracts are washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo to give ethyl 4-oxo-4,5,6,7-tetrahydroindole-3-carboxylate (357 g). A mixture of this ester (170 g, 0.82 mol) in ethyl alcohol (250 mL) and a solution of sodium hydroxide (165 g, 4.1 mol) in water (1 L) is heated at reflux for 1 h, then cooled in an ice water bath. Concentrated hydrochloric acid (350 mL) is added dropwise, the precipitate collected by filtration, rinsed with ice water (3×), and dried in a vacuum oven at 75° C. to afford 4-oxo-4,5,6,7-tetrahydroindole-3-carboxylate (125 g). m.p. 269°-270° C.

reactant | 4-oxo-4,5,6,7-tetrahydrobenzofuran-3-carboxylic acid | 3.55 mol, 640 g | O=C1CCCC2=C1C(=CO2)C(=O)O | C9H8O4
reactant | potassium carbonate | 10.65 mol, 1.7 kg | C([O-])([O-])=O.[K+].[K+]
reactant | cesium carbonate | 0.32 mol, 100 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodoethane | 8.01 mol, 1250 g | ICC | C2H5I
solvent | N,N-dimethylformamide | 9.0 L | CN(C=O)C | C3H7NO
product | ethyl 4-oxo-4,5,6,7-tetrahydrobenzofuran-3-carboxylic acid | 642 g | C(C)C=1OC2=C(C1C(=O)O)C(CCC2)=O | C11H12O4
